US08202513B2
1a) 2-(3-(4-Fluorophenyl)propoxy)-1,3-dimethoxy-5-methylbenzene
3,5-Dimethoxy-4-hydroxy-toluene (1.0 g, 5.95 mmol) and 1-(3-bromopropyl)-4-fluorobenzene (1.5 g, 6.15 mmol) were reacted as described under General Procedure A and the crude product was purified by flash chromatography (silica-gel, hexane/Et2O 19:1) to afford the title compound (1.64 g, 91%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 7.31-7.19 (m, 6H), 4.06 (t, J=6.4 Hz, 2H), 3.95 (s, 3H), 3.90 (s, 3H), 2.81 (t, J=7.7 Hz, 2H), 2.46 (s, 3H), 2.10-2.05 (m, 2H).

reactant | 3,5-Dimethoxy-4-hydroxy-toluene | 5.95 mmol, 1.0 g | COC=1C=C(C=C(C1O)OC)C | C9H12O3
reactant | 1-(3-bromopropyl)-4-fluorobenzene | 6.15 mmol, 1.5 g | BrCCCC1=CC=C(C=C1)F | C9H10BrF
product | 2-(3-(4-Fluorophenyl)propoxy)-1,3-dimethoxy-5-methylbenzene | 1.64 g, 91% | FC1=CC=C(C=C1)CCCOC1=C(C=C(C=C1OC)C)OC | C18H21FO3
